US06063789
b) 1-Amino-3-(4-hydroxyphenyl)-3,4-dihydroisoquinoline hydrochloride
Tetra-n-butylammonium fluoride (1.0M in THF, 3.3 ml) was added to a stirred solution of 1-amino-3-(tert-butyldimethylsilyloxyphenyl)-3,4-dihydroisoquinoline hydrochloride (638 mg, 1.11 mmol) in THF (10 ml). After 15 min., the mixture was evaporated and the residue purified by flash chromatography on untreated neutral alumina, eluting with 5% methanol in dichloromethane, increasing the gradient to 40% methanol in dichloromethane to give a colourless solid (172 mg). This was recrystallised from methanol/dichloromethane (1:2) to give the product as a white powder. M+ 239; 360 MHz 1H n.m.r (d6 -DMSO) 9.65 (1H, br.s), 8.15 (1H, d, J 7.8 Hz), 7.69 (1H, t, J 7.5 Hz), 7.52 (1H, t, J 7.6 Hz), 7.45 (1H, d, J 7.5 Hz), 7.19 (2H, d, J 8.6 Hz), 6.77 (2H, d, J 8.6 Hz), 4.87 (1H, t, J 7.3 Hz), 3.25 (2H, d, J 7.3 Hz).

reactant | Tetra-n-butylammonium fluoride | 1.0M, 3.3 ml | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | 1-amino-3-(tert-butyldimethylsilyloxyphenyl)-3,4-dihydroisoquinoline hydrochloride | 1.11 mmol, 638 mg | Cl.NC1=NC(CC2=CC=CC=C12)C1=C(C=CC=C1)O[Si](C)(C)C(C)(C)C
reactant | THF | 10 ml | C1CCOC1 | C4H8O
product | 1-Amino-3-(4-hydroxyphenyl)-3,4-dihydroisoquinoline hydrochloride | 172 mg | Cl.NC1=NC(CC2=CC=CC=C12)C1=CC=C(C=C1)O | InChI=1S/C15H14N2O.ClH/c16-15-13-4-2-1-3-11(13)9-14(17-15)10-5-7-12(18)8-6-10;/h1-8,14,18H,9H2,(H2,16,17);1H
